US05663440
In a 200-milliliter three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 17.4 g of iron chloride, 16.7 g of paranitrobenzoyl chloride and 40 milliliters of 1,2-dichloroethane were introduced. Then, a solution of 9.0 g of 1,1-diphenyl heptane in 10 milliliters of 1,2-dichloroethane was added dropwise for 15 minutes with an ice bath. Thereafter, the solution was stirred for 3 hours and 40 minutes with heating to a reflux temperature. After the end of the reaction was confirmed by a liquid chromatography, the solution was poured in ice water containing dilute hydrochloric acid, and then extracted with chloroform. The solution was washed with hydrochloric acid, an aqueous solution of sodium hydroxide and water, and then dried with anhydrous sodium sulfate. After removing off the solvent by a rotary evaporator, the solution was dissolved in chloroform and subjected to a separating operation by a column chromatography with silica gel, to obtain 14.4 g of 1,1-bis(4-(4-nitrobenzoyl)phenyl)heptane as red oil.

reactant | paranitrobenzoyl chloride | 16.7 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 1,1-diphenyl heptane | 9.0 g | C1(=CC=CC=C1)C(CCCCCC)C1=CC=CC=C1 | C19H24
solvent | 1,2-dichloroethane | 10 milliliters | ClCCCl | C2H4Cl2
catalyst | iron chloride | 17.4 g | [Fe](Cl)Cl
solvent | 1,2-dichloroethane | 40 milliliters | ClCCCl | C2H4Cl2
product | 1,1-bis(4-(4-nitrobenzoyl)phenyl)heptane | 14.4 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)C(CCCCCC)C2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C33H30N2O6
